US07087599B2
A suspension of 9a-butyl-7-methoxy-4-(4-methoxymethoxy-phenyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one (813 mg, 2 mmol) in methanol (12 mL) was warmed in an oil bath at 60° C. and treated with aqueous 2N HCl (4 mL). The resulting mixture was stirred and heated at 60° C. for two hours, then cooled to room temperature and evaporated under vacuum to leave a yellow semi-solid. The residue was dissolved in EtOAc, washed with water and brine, dried over MgSO4, filtered, evaporated under vacuum, and stripped with toluene to afford 9a-butyl-4-(4-hydroxy-phenyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (787 mg, ca. 92% weight pure) as a yellow foam.

reactant | 9a-butyl-7-methoxy-4-(4-methoxymethoxy-phenyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 2 mmol, 813 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)OCOC)OC | C26H30O4
reactant | HCl | 2N, 4 mL | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 9a-butyl-4-(4-hydroxy-phenyl)-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 787 mg, ca. 92% | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)O)OC | C24H26O3
